US05852017
a) N-Cyclohexyl-2,4-dinitroaniline
50 g (0.247 mol) of 1-chloro-2,4-dinitrobenzene, 73.5 g (0.74 mol) of cyclohexylamine, 68 g (0.5 mol) of potassium carbonate and 20 ml of water were heated in 400 ml of dimethylformamide at 80°-90° C. for 3 h. The mixture was then concentrated under reduced pressure, and the residue was partitioned between water and ethyl acetate. The organic phase was dried and concentrated under reduced pressure to yield 63.9 g (98%) of the product. Melting point 155° C.

reactant | 1-chloro-2,4-dinitrobenzene | 0.247 mol, 50 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | cyclohexylamine | 0.74 mol, 73.5 g | C1(CCCCC1)N | C6H13N
reactant | potassium carbonate | 0.5 mol, 68 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | N-Cyclohexyl-2,4-dinitroaniline | 63.9 g, 98% | C1(CCCCC1)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C12H15N3O4
